.include TSMC_180nm.txt

.param LAMBDA=0.09u
.param W=20*LAMBDA
.param width_N=W
.param width_P=2*W
.global gnd vdd

Vdd vdd gnd 1.8

Vin_a0 a0 gnd PULSE(0 1.8 0.5ns 50ps 50ps 1ns 2ns 0)
Vin_a1 a1 gnd PULSE(0 1.8 0.5ns 50ps 50ps 1ns 2ns 0)
Vin_a2 a2 gnd PULSE(0 1.8 0.5ns 50ps 50ps 1ns 2ns 0)
Vin_a3 a3 gnd PULSE(0 1.8 0.5ns 50ps 50ps 1ns 2ns 0)

Vin_b0 b0 gnd PULSE(0 1.8 2.5ns 50ps 50ps 1ns 2ns 0)
Vin_b1 b1 gnd PULSE(0 1.8 0.5ns 50ps 50ps 1ns 2ns 0)
Vin_b2 b2 gnd PULSE(0 1.8 0.5ns 50ps 50ps 1ns 2ns 0)
Vin_b3 b3 gnd PULSE(0 1.8 0.5ns 50ps 50ps 1ns 2ns 0)



.subckt inv in out vdd gnd S=1
.param Wp = {2*W}
.param Wn = {W}

M5 out in vdd vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}
M6 out in gnd gnd CMOSN W={S*Wn} L={2*LAMBDA} 
+AS={S*5*Wn*LAMBDA} PS={10*LAMBDA+S*2*Wn} 
+AD={S*5*Wn*LAMBDA} PD={10*LAMBDA+S*2*Wn}
.ends inv



.subckt g_calc ai bi gi vdd gnd S=1 
.param Wp = {2*W}
.param Wn = {2*W}

M1 gibar bi vdd vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}
M2 gibar ai vdd vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}

M3 gibar bi gi_temp gnd CMOSN W={S*Wn} L={2*LAMBDA} 
+AS={S*5*Wn*LAMBDA} PS={10*LAMBDA+S*2*Wn} 
+AD={S*5*Wn*LAMBDA} PD={10*LAMBDA+S*2*Wn}
M4 gi_temp ai gnd gnd CMOSN W={S*Wn} L={2*LAMBDA} 
+AS={S*5*Wn*LAMBDA} PS={10*LAMBDA+S*2*Wn} 
+AD={S*5*Wn*LAMBDA} PD={10*LAMBDA+S*2*Wn}

x1 gibar gi vdd gnd inv S=2
.ends g_calc



.subckt pi_calc ai bi pi vdd gnd S=1 
.param Wp = {2*W}
.param Wn = {1*W}

M7 pi_temp_1 ai vdd vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}
M8 pi bi_bar pi_temp_1 vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}
M9 pi_temp_2 bi vdd vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}
M10 pi ai_bar pi_temp_2 vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}

M11 pi_temp_3 ai_bar gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M12 pi bi_bar pi_temp_3 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M13 pi_temp_4 ai gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M14 pi bi pi_temp_4 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}

x1 ai ai_bar vdd gnd inv
x2 bi bi_bar vdd gnd inv
.ends pi_calc




.subckt c2_calc p0 p1 g0 g1 c2 vdd gnd S=1 
.param Wp = {4*W}
.param Wn = {1*W}

M19 c2_temp_1 g0 vdd vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}
M20 c2_bar g1 c2_temp_1 vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}
M21 c2_temp_1 p1 vdd vdd CMOSP W={S*Wp} L={2*LAMBDA} 
+AS={S*5*Wp*LAMBDA} PS={10*LAMBDA+S*2*Wp} 
+AD={S*5*Wp*LAMBDA} PD={10*LAMBDA+S*2*Wp}


M22 c2_bar p1 c2_temp_2 gnd CMOSN W={2*S*Wn} L={2*LAMBDA} 
+AS={2*S*5*Wn*LAMBDA} PS={10*LAMBDA+2*S*2*Wn} 
+AD={2*S*5*Wn*LAMBDA} PD={10*LAMBDA+2*S*2*Wn}
M23 c2_temp_2 g0 gnd gnd CMOSN W={2*S*Wn} L={2*LAMBDA} 
+AS={2*S*5*Wn*LAMBDA} PS={10*LAMBDA+2*S*2*Wn} 
+AD={2*S*5*Wn*LAMBDA} PD={10*LAMBDA+2*S*2*Wn}
M24 c2_bar g1 gnd gnd CMOSN W={S*Wn} L={2*LAMBDA} 
+AS={S*5*Wn*LAMBDA} PS={10*LAMBDA+S*2*Wn} 
+AD={S*5*Wn*LAMBDA} PD={10*LAMBDA+S*2*Wn}


x1 c2_bar c2 vdd gnd inv
.ends c2_calc



.subckt c3_calc p0 p1 p2 g0 g1 g2 c3 vdd gnd S=1 
M27 c3_temp_1 g0 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M28 c3_temp_2 g1 c3_temp_1 vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M29 c3_bar g2 c3_temp_2 vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M30 c3_temp_1 p1 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M31 c3_temp_2 p2 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}


M32 c3_bar p2 c3_temp_3 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M33 c3_temp_3 p1 c3_temp_4 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M34 c3_temp_4 g0 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M35 c3_temp_3 g1 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M36 c3_bar g2 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}


x1 c3_bar c3 vdd gnd inv
.ends c3_calc



.subckt c4_calc p0 p1 p2 p3 g0 g1 g2 g3 c4 vdd gnd S=1 
M39 c4_temp_1 g0 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M40 c4_temp_2 g1 c4_temp_1 vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M41 c4_temp_3 g2 c4_temp_2 vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M42 c4_bar g3 c4_temp_3 vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M43 c4_temp_1 p1 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M44 c4_temp_2 p2 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M45 c4_temp_3 p3 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}


M46 c4_bar p3 c4_temp_4 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M47 c4_temp_4 p2 c4_temp_5 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M48 c4_temp_5 p1 c4_temp_6 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M49 c4_temp_6 g0 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M50 c4_temp_5 g1 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M51 c4_temp_4 g2 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M52 c4_bar g3 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}


x1 c4_bar c4 vdd gnd inv
.ends c4_calc


.subckt load in vdd gnd
M13 nc in vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} 
+AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M14 nc in gnd gnd CMOSN W={width_N} L={2*LAMBDA} 
+AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} 
+AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M15 nc in vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} 
+AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M16 nc in gnd gnd CMOSN W={width_N} L={2*LAMBDA} 
+AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} 
+AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends load


x1 a0 b0 p0 vdd gnd pi_calc
x2 a1 b1 p1 vdd gnd pi_calc
x3 a2 b2 p2 vdd gnd pi_calc
x4 a3 b3 p3 vdd gnd pi_calc

x5 a0 b0 g0 vdd gnd g_calc
x6 a1 b1 g1 vdd gnd g_calc
x7 a2 b2 g2 vdd gnd g_calc
x8 a3 b3 g3 vdd gnd g_calc

x10 p0 p1 g0 g1 c2 vdd gnd c2_calc
x11 p0 p1 p2 g0 g1 g2 c3 vdd gnd c3_calc
x12 p0 p1 p2 p3 g0 g1 g2 g3 c4 vdd gnd c4_calc

R1 p0 s0 0
x13 g0 p1 s1 vdd gnd pi_calc
x14 c2 p2 s2 vdd gnd pi_calc
x15 c3 p3 s3 vdd gnd pi_calc

x16 s0 vdd gnd load
x17 s1 vdd gnd load
x18 s2 vdd gnd load
x19 s3 vdd gnd load

x20 c4 vdd gnd load

.tran 0.1ps 5ns

.measure tran tplh_s0
+TRIG v(a0) VAL=0.9 RISE=1 
+TARG v(s0) VAL=0.9 RISE=1
.measure tran tphl_s0
+TRIG v(a0) VAL=0.9 FALL=1 
+TARG v(s0) VAL=0.9 FALL=1
.measure tran tp_s0 param = (tphl_s0 + tplh_s0)/2

.control
run
set curplottitle="Hrishikesh-2024122006"
*plot v(a0) 2+v(a1) 4+v(a2) 6+v(a3) 8+v(b0) 10+v(b1) 12+v(b2) 14+v(b3) 
*plot v(s0) 2+v(s1) 4+v(s2) 6+v(s3) 8+v(c4)
*plot v(g0) 2+v(c2) 4+v(c3) 6+v(c4)
*plot @vdd[p]
set hcopypscolor = 1

*hardcopy q4.eps 
.endc


*tplh_s0             =  1.567699e-10 targ=  6.817699e-10 trig=  5.250000e-10
*tphl_s0             =  1.298034e-10 targ=  1.704803e-09 trig=  1.575000e-09
*tp_s0               =  1.43287e-10